US04863958
A solution of 2-(p-methoxybenzoyl)-3-methyl-4-allyl-5-hydroxybenzofuran (3 gm, 9.3 mmoles) in ethanol (150 mL) was hydrogenated in a Parr hydrogenator in the presence of 10% palladium on charcoal at 40 psi for a period of 3 hours. The catalyst was filtered off, washed with some ethanol, and the filtrate was concentrated in vacuo. The residue was recrystallized from hexane to yield (1.1 gm, 38%) of 2-(p-methoxybenzyl)-3-methyl-4-propyl-5-hydroxybenzofuran, mp. 91°-93° C.

reactant | 2-(p-methoxybenzoyl)-3-methyl-4-allyl-5-hydroxybenzofuran | 9.3 mmoles, 3 gm | COC1=CC=C(C(=O)C=2OC3=C(C2C)C(=C(C=C3)O)CC=C)C=C1 | C20H18O4
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 2-(p-methoxybenzyl)-3-methyl-4-propyl-5-hydroxybenzofuran | 1.1 gm, 38% | COC1=CC=C(CC=2OC3=C(C2C)C(=C(C=C3)O)CCC)C=C1 | C20H22O3
